US05472973
To a solution of 9-methylfluorene (10.0 g, 55.5 mmol) in 100 mL of THF was added n-BuLi (61.0 mmol) at -10° C., then a solution of ethylene oxide (61.0 mmol) in THF was added in one portion. The reaction mixture was stirred at -20° C., then allowed to warm to room temperature, quenched with NH4Cl solution and evaporated to a residue. This was then partitioned between ethyl acetate and water, the organic layer was washed with brine, dried with MgSO4 and evaporated to get the product which was purified by chromatography using 10% ethyl acetate/hexane mixture to provide a pure sample of 9-methylfluorene-9-ethanol, m.p. 84°-85° C.

reactant | 9-methylfluorene | 55.5 mmol, 10.0 g | CC1C2=CC=CC=C2C=2C=CC=CC12 | C14H12
reactant | n-BuLi | 61.0 mmol | [Li]CCCC
reactant | ethylene oxide | 61.0 mmol | C1CO1 | C2H4O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 9-methylfluorene-9-ethanol | CC1(C2=CC=CC=C2C=2C=CC=CC12)CCO | C16H16O
